US07902200B2
2-[3-(2,4-difluorophenyl)sulfanylpropoxy]oxane
Sodium hydride (60%) (1.72 g, 44.8 mmol) was added to a solution of 2,4-difluorobenzenethiol (CAS no. 1996-44-7) (4.6 mL, 40 mmol) in THF (150 mL) at 0° C., under argon. The mixture was allowed to warm to room temperature and 2-(3-bromopropoxy)oxane (CAS no. 33821-94-2) (7.6 mL, 45 mmol) was added. The reaction was stirred at ambient temperature for 16 hours. The mixture was poured into ice/water (250 mL) and extracted with ethyl acetate (250 mL). The organic extract was washed with brine, dried (MgSO4) and the solvent removed under reduced pressure. The residue was purified by flash chromatography, eluting with 0-10% ethyl acetate in isohexane afford the product (10.8 g, 84%). 1H NMR δ(400 MHZ, CDCl3): 1.49-1.61 (m, 4H), 1.65-1.73 (m, 1H), 1.75-1.90 (m, 3H), 2.96 (t, 2H), 3.46-3.52 (m, 2H), 3.79-3.87 (m, 2H), 4.55-4.56 (m, 1H), 6.80-6.86 (m, 2H), 7.38-7.44 (m, 1H).

reactant | Sodium hydride | 44.8 mmol, 1.72 g | [H-].[Na+]
reactant | 2,4-difluorobenzenethiol | FC1=C(C=CC(=C1)F)S | C6H4F2S
reactant | 2-(3-bromopropoxy)oxane | BrCCCOC1OCCCC1 | C8H15BrO2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 2-[3-(2,4-difluorophenyl)sulfanylpropoxy]oxane | 10.8 g, 84% | FC1=C(C=CC(=C1)F)SCCCOC1OCCCC1 | C14H18F2O2S
